US08314147B2
Intermediate 85 5-{[(3-chlorophenyl)methyl]oxy}-2-methylbenzoic Acid (Intermediate 43, Hydrolysis Step)
A solution of (3-chlorophenyl)methyl 5-{[(3-chlorophenyl)methyl]oxy}-2-methylbenzoate from the preparation of Intermediate 84 described above (2.67 g, 6.66 mmol) in 1,4-dioxane (20 ml) and water (10 ml) was treated with lithium hydroxide (419 mg, 9.99 mmol, 1.5 eq). The resulting mixture was stirred at room temperature under argon overnight. A further portion of lithium hydroxide (419 mg, 9.99 mmol, 1.5 eq) was added and stirring continued at room temperature for 2 hours. Stirring continued at room temperature overnight. The solvent was then evaporated to dryness and then partitioned between 2M HCl (100 ml) and diethylether (100 ml). The organic layer was separated and passed through a hydrophobic frit to remove any water and evaporated to dryness to afford the title compound as a white solid (1.98 g) (contains 12% impurity). No further purification carried out. MS (ES−) m/z 275 [M−H]− (C15H1335ClO3).

reactant | (3-chlorophenyl)methyl 5-{[(3-chlorophenyl)methyl]oxy}-2-methylbenzoate | ClC=1C=C(C=CC1)COC=1C=CC(=C(C(=O)OCC2=CC(=CC=C2)Cl)C1)C | C22H18Cl2O3
reactant | water | 10 ml | O | H2O
reactant | lithium hydroxide | 9.99 mmol, 419 mg, 1.5 eq | [OH-].[Li+]
reactant | lithium hydroxide | 9.99 mmol, 419 mg, 1.5 eq | [OH-].[Li+]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 5-{[(3-chlorophenyl)methyl]oxy}-2-methylbenzoic Acid | 1.98 g, 12% | ClC=1C=C(C=CC1)COC=1C=CC(=C(C(=O)O)C1)C | C15H13ClO3
